US07256298B2
Into 16.6 g (100.0 mmol) of 5-hydroxy-1-methyl-3-trifluoromethyl-1H-pyrazole in 15.4 g of N,N-dimethylformaldehyde was added 16.2 g (105.0 mmol) of phosphorus oxychloride at 0° C., followed by 1 hour of stirring at room temperature. Furthermore, the whole was stirred at 100° C. for 1 hour. After the completion of the reaction was confirmed, the reaction solution was poured into water and the pH was made 10 or more with a 25% sodium hydroxide solution and then the aqueous layer was washed with ethyl acetate. The pH of the resulting aqueous layer was made about 4 with a saturated citric acid solution and then extracted with diethyl ether. The resulting organic layer was washed with water and saline, successively, and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure and the residue was purified by silica gel column chromatography to obtain 4.5 g (yield: 23.2%) of 5-hydroxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carbaldehyde.

reactant | 5-hydroxy-1-methyl-3-trifluoromethyl-1H-pyrazole | 100.0 mmol, 16.6 g | OC1=CC(=NN1C)C(F)(F)F | C5H5F3N2O
reactant | phosphorus oxychloride | 105.0 mmol, 16.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | N,N-dimethylformaldehyde | 15.4 g | CN(C)C=O | C3H7NO
product | 5-hydroxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carbaldehyde | 4.5 g, yield: 23.2% | OC1=C(C(=NN1C)C(F)(F)F)C=O | C6H5F3N2O2
